US05885990
Preparation of 6-amidino-1-carbamoylmethyl-2-naphthyl 4-dimethylaminoiminomethylaminobenzoate.dihydrochloride:
40 Milliliters of 20% hydrous pyridine was added to 1.44 g of 4-dimethylaminoiminomethylaminobenzoic acid.hydrochloride, 1.5 g of 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride, 1.33 g of DCC and 65.5 mg of DMAP, followed by stirring for 2 hours under cooling with ice and then 72 hours at room temperature. Then, the precipitate was filtered and the filtrate was concentrated under reduced pressure. To the residue was added 25 ml of DMF, and the resulting solution was added dropwise to a mixed liquid of 200 ml of ether and 100 ml of acetone, followed by stirring for 2 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain a crude product. Then, the product was subjected to silica gel column chromatography using methyl ethyl ketone-water-formic acid (80:15:5) as an eluent, and the desired fractions were collected and the solvent was distilled off under reduced pressure. To the residue were added 15 ml of methanol and 2.8 ml of concentrated hydrochloric acid, and the resultant solution was added dropwise to 150 ml of acetone, followed by stirring for 2 hours under cooling with ice. Then, the precipitate was collected by filtration, and to the collected precipitate were added 10 ml of methanol and 5 ml of ethanol, followed by stirring for 2 hours under cooling with ice. The precipitate was collected by filtration and washed with a small amount of acetone to obtain 966 mg of the desired product.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-dimethylaminoiminomethylaminobenzoic acid.hydrochloride | 1.44 g | Cl.CN(C)N=CNC1=CC=C(C(=O)O)C=C1
reactant | 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride | 1.5 g | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(N)=O)O
reactant | DCC | 1.33 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 65.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methyl ethyl ketone water formic acid | C(C)C(=O)C.O.C(=O)O
product | 6-amidino-1-carbamoylmethyl-2-naphthyl 4-dimethylaminoiminomethylaminobenzoate.dihydrochloride | 966 mg | Cl.Cl.CN(C)N=CNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(N)=O)C=C1 | InChI=1S/C23H24N6O3.2ClH/c1-29(2)28-13-27-17-7-3-14(4-8-17)23(31)32-20-10-6-15-11-16(22(25)26)5-9-18(15)19(20)12-21(24)30;;/h3-11,13H,12H2,1-2H3,(H2,24,30)(H3,25,26)(H,27,28);2*1H
